US08119692B2
(R)-4-(4-Fluoro-3-methyl-phenyl)-4-hydroxy-butanoic acid (Intermediate D1)
To a solution of (R)-Methyl 4-(4-fluoro-3-methylphenyl)-4-hydroxybutanoate (181 mg, 0.80 mmol) in 5 mL dioxane was added 5 mL aqueous 5% KOH at 25° C. The mixture was stirred for 30 min at room temperature and then the reaction quenched by the addition of 10 mL of 1M HCl and the resulting mixture extracted with ethyl acetate (2×10 mL). The combined organic layers were extracted with 5% K2CO3 (3×5 mL) and the aqueous extracts acidified with 1M HCl to pH3. The resulting white colloidal suspension was extracted with ethyl acetate (3×20 mL) and the combined organic layers washed with brine (2×15 mL) before being dried over Na2SO4. The solvent was evaporated under reduced pressure and the crude product (233 mg) was used in the next step without further purification.

reactant | (R)-Methyl 4-(4-fluoro-3-methylphenyl)-4-hydroxybutanoate | 0.80 mmol, 181 mg | FC1=C(C=C(C=C1)[C@@H](CCC(=O)OC)O)C | C12H15FO3
reactant | KOH | [OH-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-4-(4-Fluoro-3-methyl-phenyl)-4-hydroxy-butanoic acid | FC1=C(C=C(C=C1)[C@@H](CCC(=O)O)O)C | C11H13FO3
